US09328092B2
Step (i): Preparation of 3-[4-(1-Cyclobutyl piperidin-4-yloxy)phenyl]-1-(morpholin-4-yl)prop-2-ene-1-one
Sodium triacetoxyborohydride (38.6 grams, 0.18 moles) was added in a single lot to a well stirred solution of 3-[4-(Piperidin-4-yloxy)phenyl]-1-(morpholin-4-yl)prop-2-ene-1-one (19.1 grams, 0.060 moles, obtained in preparation 1) and cyclobutanone (6.8 mL, 0.09 moles) in dichloroethane (500 mL). The mixture was further stirred at room temperature for 6 hours. The progress of the reaction was monitored by thin layer chromatography. After completion of reaction, the mass was quenched on to water (1000 mL) and basified with 40% lye solution (pH˜9). The layers were separated and the aqueous layer was extracted with dichloromethane (2×200 mL). The combined organic layer was washed with brine solution (250 mL), dried over sodium sulfate, concentrated under vacuum and the residual mass was further purified by flash chromatography using methanol:triethylamine:chloroform in the ratio of 1.5:0.25:98.25 to obtain the title compound (17.4 grams).

reactant | Sodium triacetoxyborohydride | 0.18 moles, 38.6 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-[4-(Piperidin-4-yloxy)phenyl]-1-(morpholin-4-yl)prop-2-ene-1-one | 0.060 moles, 19.1 grams | N1CCC(CC1)OC1=CC=C(C=C1)C=CC(=O)N1CCOCC1 | C18H24N2O3
reactant | cyclobutanone | 0.09 moles, 6.8 mL | C1(CCC1)=O | C4H6O
solvent | dichloroethane | 500 mL | ClC(C)Cl | C2H4Cl2
product | 3-[4-(1-Cyclobutyl piperidin-4-yloxy)phenyl]-1-(morpholin-4-yl)prop-2-ene-1-one | 17.4 grams, Yield: 77% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=CC(=O)N1CCOCC1 | C22H30N2O3
